US09446035B2
A solution of 3-bromo-5-nitropyridin-4-amine (XLVI) (1 eq.), in neat morpholine in a sealed tube was heated at 120-140° C. overnight. The solution was poured into a mixture of EtOAc and water. The organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic layers was washed with brine, dried over MgSO4 and concentrated to get a residue. The crude product was purified on a silica gel column eluting with chloroform:MeOH gradient. The fractions containing product were mixed and concentrated under vacuum. The residue was triturated with hexane to give 3-morpholino-5-nitropyridin-4-amine (LIII).

reactant | 3-bromo-5-nitropyridin-4-amine | 1 eq. | BrC=1C=NC=C(C1N)[N+](=O)[O-] | C5H4BrN3O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-morpholino-5-nitropyridin-4-amine | O1CCN(CC1)C=1C=NC=C(C1N)[N+](=O)[O-] | C9H12N4O3
